US06689922B1
6-[3-(3,4-bis-Hydroxymethylphenoxymethyl)phenyl]-2-methylheptan-2-ol
In a manner similar to Example 3(i), by reacting 1.25 ml of tetrabutylammonium fluoride with 250 mg (0.41 mmol) of 6-{3-[3,4-bis-(tert-butyldimethylsilanyloxymethyl)phenoxymethyl]phenyl}-2-methylheptan-2-ol in 7 ml of THF, after purification on a silica column (ethyl acetate 30-heptane 70), a colourless oil (m=130 mg; Y=85%) is obtained.

reactant | tetrabutylammonium fluoride | 1.25 ml | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | 6-{3-[3,4-bis-(tert-butyldimethylsilanyloxymethyl)phenoxymethyl]phenyl}-2-methylheptan-2-ol | 0.41 mmol, 250 mg | [Si](C)(C)(C(C)(C)C)OCC=1C=C(OCC=2C=C(C=CC2)C(CCCC(C)(O)C)C)C=CC1CO[Si](C)(C)C(C)(C)C | C35H60O4Si2
solvent | THF | 7 ml | C1CCOC1 | C4H8O
product | 6-[3-(3,4-bis-Hydroxymethylphenoxymethyl)phenyl]-2-methylheptan-2-ol | OCC=1C=C(OCC=2C=C(C=CC2)C(CCCC(C)(O)C)C)C=CC1CO | C23H32O4
